US06159902
A solution of (cyclopent-1-enyl)methylbromide (3.8 g) in tetrahydrofuran was added to a stirred mixture of 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde (3.5 g) and zinc powder(1.6 g) in tetrahydrofuran at 20° C. under an inert atmosphere. The temperature increased to 53° C. slowly and after 2 hours, ethyl acetate and hydrochloric acid (1N) were added and the organic phase washed with brine, dried (magnesium sulphate), evaporated and purified by silica gel column chromatography, eluting with n-hexane/ethyl acetate (2:1) to give 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-1-(2-methylenecyclopentyl)propan-1-ol (3.66 g), NMR: 1.46(s,3H), 1.61(s,3H), 1.88(s,3H), 1.5-1.9(4H), 2.24(2H), 2.50(1H), 3.24(d,1H), 3.80(s,1H), 4.93(s,1H), 5.06(s,1H), 5.19(d,1H), 5.26(d,1H), 7.22-7.38(5H).

reactant | (cyclopent-1-enyl)methylbromide | 3.8 g | C1(=CCCC1)CBr | C6H9Br
reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde | 3.5 g | CC1=C(C(N(CO1)C(C=O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc | 1.6 g | [Zn] | Zn
product | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-1-(2-methylenecyclopentyl)propan-1-ol | 3.66 g | CC1=C(C(N(CO1)C(C(O)C1C(CCC1)=C)(C)C)=O)C1=CC=CC=C1 | C21H27NO3
